US07985751B2
A mixture of bis(2-chloroethyl)-(3-phenylpropyl)ammonium chloride (116 mg, 0.39 mmol), potassium carbonate (119 mg, 0.86 mmol), sodium iodide (134.9 mg, 0.9 mmol), and 2-(4-(benzyloxy)-3-methoxyphenyl)ethanamine hydrochloride (100 mg, 0.34 mmol) in dimethylformamide (3 ml) is stirred at 70° C. for 5 h and then cooled to ambient temperature. To the resultant mixture is added water and ethyl acetate. The organic layer is washed with brine, dried over anhydrous sodium sulfate, and concentrated. The resulting residue is then purified by column chromatography, eluting with methanol-dichloromethane (1:9) to yield 112 mg of 1-(4-(benzyloxy)-3-methoxyphenethyl)-4-(3-phenylpropyl)piperazine (83%).

reactant | bis(2-chloroethyl)-(3-phenylpropyl)ammonium chloride | 0.39 mmol, 116 mg | [Cl-].ClCC[NH+](CCCC1=CC=CC=C1)CCCl
reactant | potassium carbonate | 0.86 mmol, 119 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.9 mmol, 134.9 mg | [I-].[Na+]
reactant | 2-(4-(benzyloxy)-3-methoxyphenyl)ethanamine hydrochloride | 0.34 mmol, 100 mg | Cl.C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCN)OC
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(4-(benzyloxy)-3-methoxyphenethyl)-4-(3-phenylpropyl)piperazine | 112 mg, 83% | C(C1=CC=CC=C1)OC1=C(C=C(CCN2CCN(CC2)CCCC2=CC=CC=C2)C=C1)OC | C29H36N2O2
